US04013703
Into a 100 ml. round bottom flask fitted with a condenser, thermometer, magnetic stirring bar, and a Drierite filled drying tube is charged 18.4 g (0.200 mole) norbornadiene, 30.6 g (0.200 mole) isobutyl 2-cyanoacrylate (inhibited with excess sulfur dioxide), and 0.1 g hydroquinone monomethyl ether (MEHQ). The solution is stirred and heated under a nitrogen atmosphere to 110° C. After 15 minutes at 110° C., the solution became cloudy, more viscous, and the reflux rate diminished. The mixture is then heated to 150° C. and maintained at this temperature for 24 hours. The solution is cooled to room temperature, diluted with 200 ml. hexane, filtered to remove polymeric solids, and the filtrate solvent stripped to a dark orange syrupy residue. The latter is dissolved in 200 ml. acetone and to the resultant solution is added 800 ml. of an aqueous solution containing 96 g. of potassium permangarate and 96 g. magnesium sulfate. After several minutes, the excess potassium permanganate is destroyed by bubbling sulfur dioxide gas into the solution. The manganese dioxide precipitate is filtered and the solid washed thoroughly with acetone. After dilution of the filtrate with one-half of its volume with water, the product is extracted into chloroform. The extract is backwashed with 3 × 500 ml. water, dried over anhydrous magnesium sulfate, filtered, and solvent stripped under reduced pressure to give 27.2 g (56% theory) of crude adduct. Distillation affords 24.0 g (49% theory) of the pure norbornadiene/isobutyl 2-cyanoacrylate adduct, b.p. 110°-112° C. (0.4 mm), a colorless liquid.

reactant | Drierite | [O-]S(=O)(=O)[O-].[Ca+2]
reactant | norbornadiene | 0.200 mole, 18.4 g | C12=CC=C(CC1)C2 | C7H8
reactant | isobutyl 2-cyanoacrylate | 0.200 mole, 30.6 g | C(#N)C(C(=O)OCC(C)C)=C | C8H11NO2
catalyst | hydroquinone monomethyl ether | 0.1 g | COC1=CC=C(O)C=C1 | C7H8O2
product | norbornadiene isobutyl 2-cyanoacrylate | 24.0 g, 49% | C12=CC=C(CC1)C2.C(#N)C(C(=O)OCC(C)C)=C | InChI=1S/C8H11NO2.C7H8/c1-6(2)5-11-8(10)7(3)4-9;1-2-7-4-3-6(1)5-7/h6H,3,5H2,1-2H3;1-2H,3-5H2
